US08044052B2
tert-Butyl 4-(3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a suspension of sodium hydride (0.292 g, 12.17 mmol) in THF (10 mL) under inert atmosphere cooled to 0° C. was added diethyl 3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate (3.8 g, 8.11 mmol) as a solution in THF (10 mL) dropwise. The reaction was stirred for 30 min at 0° C. and tert-butyl 4-oxopiperidine-1-carboxylate (1.62 g, 8.11 mmol) was added as a solution in THF (10 mL). The reaction was stirred at RT for 5 h. The reaction mixture was cooled to 0° C. and quenched with saturated aqueous NH4Cl. The mixture was extracted with ethyl acetate three times. The organic layer was washed with brine, dried over Na2SO4, and evaporated to dryness to give the title compound (4.22 g, 100%). 1H NMR (500 MHz, CDCl3): δ 8.44 (s, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.22 (s, 1H), 7.18 (s, 1H), 7.03 (d, J=8.5 Hz, 1H), 6.91 (s, 1H), 6.28 (s, 1H), 3.49 (m, 2H), 3.40 (m, 2H), 2.44 (m, 2H), 2.32 (m, 2H), 1.47 (s, 9H); m/z (513.2, 515.2, M+ H+).

reactant | sodium hydride | 12.17 mmol, 0.292 g | [H-].[Na+]
reactant | diethyl 3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylphosphonate | 8.11 mmol, 3.8 g | BrC=1C=C(CP(OCC)(OCC)=O)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C17H18BrF3NO4P
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 8.11 mmol, 1.62 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(3-bromo-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 4.22 g, 100% | BrC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C23H24BrF3N2O3
